US04182758
A solution of N-benzyloxycarbonylaminoacetyl chloride (2.85 g) in ethyl ether (5 ml) was added dropwise to a solution of 3-(N-hydroxyamino)propylphosphonic acid (985 mg) and sodium bicarbonate (1.51 g) in a mixture of water (20 ml) and methanol (20 ml) with stirring under ice-cooling. During the period, the reaction mixture was adjusted to pH 7-8 with 5% aqueous sodium bicarbonate solution. The stirring was continued for an hour, whereafter the mixture was adjusted to pH 10 with 1 N aqueous sodium hydroxide solution and stirred at the same temperature for 45 minutes. The resultant mixture was adjusted to pH 7 and methanol was distilled off under reduced pressure. The resultant aqueous solution was adjusted to pH 2 with 10% hydrochloric acid and washed with ethyl acetate (30 ml), whereafter the solution was adjusted to pH 1 with 10% hydrochloric acid and then extracted twice with n-butanol (30 ml). The combined n-butanol layer was concentrated under reduced pressure to give a residue, which was crystallized from ether to give 3-[N-(N-benzyloxycarbonylaminoacetyl)N-hydroxyamino]propylphosphonic acid (720 mg) in the form of crystals MP: 101°~105° C.

reactant | N-benzyloxycarbonylaminoacetyl chloride | 2.85 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)Cl | C10H10ClNO3
reactant | 3-(N-hydroxyamino)propylphosphonic acid | 985 mg | ONCCCP(O)(O)=O | C3H10NO4P
reactant | sodium bicarbonate | 1.51 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 3-[N-(N-benzyloxycarbonylaminoacetyl)N-hydroxyamino]propylphosphonic acid | 720 mg | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(O)CCCP(O)(O)=O | C13H19N2O7P
